US08026270B2
Ethyl {4-[4-(ethyloxy)-9-hydroxy-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate
10% Palladium on carbon (0.175 g) was suspended in ethanol (150 ml), to this was added ethyl (4-{4-(ethyloxy)-1,3-dioxo-9-[(phenylmethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}-3-fluorophenyl)acetate (1.75 g, 3.32 mmol). The reaction was stirred at room temperature under an atmosphere of hydrogen for 3 hours. This was filtered through a bed of celite under a blanket of argon, and washed with dichloromethane. The filtrate was evaporated to give a yellow solid (1.56 g, 3.57 mmol). LC/MS: Rt=3.50, [MH]+ 438.

reactant | ethyl (4-{4-(ethyloxy)-1,3-dioxo-9-[(phenylmethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}-3-fluorophenyl)acetate | 3.32 mmol, 1.75 g | C(C)OC1=C2C(=C(C=3C(N(C(C13)=O)C1=C(C=C(C=C1)CC(=O)OCC)F)=O)OCC1=CC=CC=C1)C=CC=C2 | C31H26FNO6
catalyst | Palladium on carbon | 0.175 g | [Pd] | Pd
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | Ethyl {4-[4-(ethyloxy)-9-hydroxy-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate | 3.57 mmol, 1.56 g | C(C)OC1=C2C(=C(C=3C(N(C(C13)=O)C1=C(C=C(C=C1)CC(=O)OCC)F)=O)O)C=CC=C2 | C24H20FNO6
